US08304557B2
(i) N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide
To a solution of N-[3-({2-[(trifluoroacetyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide (400 mg, 0.787 mmol) in ethanol (4.0 mL) was added 1N aqueous sodium hydroxide solution (8.0 mL), and the mixture was stirred at room temperature for 12 hr. Water (100 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (200 mL). The organic layer was washed with saturated brine (100 mL), and dried over anhydrous sodium sulfate. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH silica gel, ethyl acetate/methanol=100/0→80/20), and fractions containing the desired product were concentrated under reduced pressure. The residue was washed with ethyl acetate/diisopropyl ether (1:4) to give the title compound (350 mg, quantitative) as a colorless solid.

reactant | N-[3-({2-[(trifluoroacetyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide | 0.787 mmol, 400 mg | FC(C(=O)NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1)(F)F | C23H14F6N4O3
reactant | sodium hydroxide | 1N, 8.0 mL | [OH-].[Na+]
reactant | Water | 100 mL | O | H2O
solvent | ethanol | 4.0 mL | C(C)O | C2H6O
product | N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide | 350 mg | NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C21H15F3N4O2
